US05206259
To a stirred mixture of lithium aluminum hydride (0.55 g, 14.6 mM) and dry tetrahydrofurane (100 ml) was added a solution (30 ml) of ethyl 4-(4-methylthiophenoxy)benzoate (4.00 g, 14.6 mM) in dry tetrahydrofurane at 0°-10° C., and the mixture was stirred for 12 h at room temperature. To this wa added 10% HCl (200 ml) and the mixture was extracted with toluene. The extract was washed with saturated sodium hydrogen carbonate solution and brine, dried with magnesium sulfate, and concentrated in vacuo. The residue was chromatographed over silica gel to give 4-(4-methylthiophenoxy)benzyl alcohol (3.13 g, 87%) as colorless crystals, m.p. 103.3° C.

reactant | lithium aluminum hydride | 14.6 mM, 0.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(4-methylthiophenoxy)benzoate | 14.6 mM, 30 ml, 4.00 g | CC1=CC=C(SC2=CC=C(C(=O)OCC)C=C2)C=C1 | C16H16O2S
reactant | HCl | 200 ml | Cl | ClH
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-methylthiophenoxy)benzyl alcohol | 3.13 g, 87% | CC1=CC=C(SC2=CC=C(CO)C=C2)C=C1 | C14H14OS
